USH0002007H1
Under a light source a stirred solution of 2.8 grams (0.013 mole) of 1-(2-fluoroethyl)-4-(4-methylphenyl)-1,2,3,5-(1H)-tetrazole, 2.4 grams (0.013 mole) of N-bromosuccinimide, and 0.19 gram (0.0008 mole) of benzoyl peroxide in 100 mL of carbon tetrachloride was heated to reflux. Once at reflux the reaction mixture was stirred for five hours. After this time the heat source was removed and the reaction mixture was stirred for about 18 hours. At the conclusion of this period the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure, yielding 0.59 gram of 4-[1-(2-fluoroethyl)-1,2,3,5-(1H)-tetrazol-4-yl]benzyl bromide. The NMR spectrum was consistent with the proposed structure.

reactant | 1-(2-fluoroethyl)-4-(4-methylphenyl)-1,2,3,5-(1H)-tetrazole | 0.013 mole, 2.8 grams | FCCN1N=NC(=N1)C1=CC=C(C=C1)C | C10H11FN4
reactant | N-bromosuccinimide | 0.013 mole, 2.4 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0008 mole, 0.19 gram | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-[1-(2-fluoroethyl)-1,2,3,5-(1H)-tetrazol-4-yl]benzyl bromide | 0.59 gram | FCCN1N=NC(=N1)C1=CC=C(CBr)C=C1 | C10H10BrFN4
